US07482448B2
A mixture of (S)-2-amino-2-methyl-pentan-1-ol hydrochloride (104.4 mg, 0.67 mmol), (S)-4,4-difluoro-2-[(morpholine-4-carbonyl)-amino]-5-phenyl-pentanoic acid (231 mg, 0.67 mmol), EDCI (154 mg, 0.8 mmol), HOBT (108 mg, 0.8 mmol) and Diisopropyl ethylamine (0.23 mL) in DMF (2 mL) is stirred at room temperature overnight. The reaction mixture is diluted with ethyl acetate, washed with cold 1N HCl, saturated NaHCO3 and then saturated NaCl solution. The organic phase is dried over MgSO4 and solvent evaporated under reduced pressure to give the crude product. Purification by Silica gel column chromatography, eluting with ethyl acetate and heptane mixture gives morpholine-4-carboxylic acid [(S)-3,3-difluoro-1-((S)-1-hydroxymethyl-1-methyl-butylcarbamoyl)-4-phenyl-butyl]-amide (223 mg, 75%).

reactant | (S)-2-amino-2-methyl-pentan-1-ol hydrochloride | 0.67 mmol, 104.4 mg | Cl.N[C@](CO)(CCC)C
reactant | (S)-4,4-difluoro-2-[(morpholine-4-carbonyl)-amino]-5-phenyl-pentanoic acid | 0.67 mmol, 231 mg | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCC1)(CC1=CC=CC=C1)F | C16H20F2N2O4
reactant | EDCI | 0.8 mmol, 154 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.8 mmol, 108 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Diisopropyl ethylamine | 0.23 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | morpholine-4-carboxylic acid [(S)-3,3-difluoro-1-((S)-1-hydroxymethyl-1-methyl-butylcarbamoyl)-4-phenyl-butyl]-amide | 223 mg, 75% | FC(C[C@@H](C(N[C@](CCC)(C)CO)=O)NC(=O)N1CCOCC1)(CC1=CC=CC=C1)F | C22H33F2N3O4
